US08008293B2
Synthesis of [(3S,5R)-5-(3,4,5-trifluorophenyl)morpholin-3-yl]methanol
{(S)-1-benzyloxymethyl-2-[2-oxo-2-(3,4,5-trifluorophenyl)ethoxy]ethyl}carbamic acid t-butyl ester (82.6 g) was diluted with 4 N hydrochloric acid-ethyl acetate solution (500 mL), and the resultant was stirred at room temperature for 12 hours. The solvent was removed under a vacuum, and the resultant was dissolved in methanol (500 mL). 10% palladium on carbon (8.5 g, 50% water content) was added, and under a hydrogen atmosphere, stirring was continued for 22 hours. The catalyst was filtered off on celite, and the filtrate was concentrated under a vacuum. The residue was diluted with methanol (500 mL), and 20% palladium hydroxide on carbon (8 g, 50% water content) was added, and under a hydrogen atmosphere, stirring was continued for 4 hours. The catalyst was filtered off on celite, and the solvent was removed under a vacuum. Ethyl acetate (600 mL) and 1 N sodium hydroxide solution (250 mL) was added, and the organic layer was partitioned. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The residue was suspended in ether (80 mL) and the resultant was filtered, and the title compound (22.34 g) was obtained. The physical property values are as follows.

reactant | {(S)-1-benzyloxymethyl-2-[2-oxo-2-(3,4,5-trifluorophenyl)ethoxy]ethyl}carbamic acid t-butyl ester | 82.6 g | C(C)(C)(C)OC(N[C@H](COCC(C1=CC(=C(C(=C1)F)F)F)=O)COCC1=CC=CC=C1)=O | C23H26F3NO5
solvent | hydrochloric acid ethyl acetate | 4 N, 500 mL | Cl.C(C)(=O)OCC
product | [(3S,5R)-5-(3,4,5-trifluorophenyl)morpholin-3-yl]methanol | 22.34 g | FC=1C=C(C=C(C1F)F)[C@@H]1COC[C@@H](N1)CO | C11H12F3NO2
